US06121239
785 mg (1.25 mmol) of Boc-D-Leu-Gly-L-Arg-pNA.
MM-D-Leu-Gly-L-Arg-pNA.AcOH

reactant | D-Leu-Gly-L-Arg-pNA | N[C@H](CC(C)C)C(=O)NCC(=O)N[C@@H](CCCNC(N)=N)C(=O)NC1=CC=C([N+](=O)[O-])C=C1 | C20H32N8O5
reactant | AcOH | CC(=O)O | C2H4O2
product | Boc-D-Leu-Gly-L-Arg-pNA | N([C@H](CC(C)C)C(=O)NCC(=O)N[C@@H](CCCNC(N)=N)C(=O)NC1=CC=C([N+](=O)[O-])C=C1)C(=O)OC(C)(C)C | C25H40N8O7
